US03931407
5-(t-Butyl)-1-(3-carboxy-4-hydroxyphenyl)-2-phenylindole ##SPC76##
A mixture of 16 g. (0.041 mole) of 5-(t-butyl)-1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole, 8 g. of 10% palladium on carbon, and 1.6 l. of xylene was heated under reflux under nitrogen for 23 hours and filtered. The filtrate was concentrated to 400 ml., cooled and filtered to provide 13.0 g. (82%) of crystals, m.p. 275°-276°. Recrystallization from acetonitrile gave crystals, m.p. 271°-273°.

reactant | 5-(t-butyl)-1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | 0.041 mole | C(C)(C)(C)C1CC=2C=C(N(C2CC1)C1=CC(=C(C=C1)O)C(=O)O)C1=CC=CC=C1 | C25H27NO3
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(t-Butyl)-1-(3-carboxy-4-hydroxyphenyl)-2-phenylindole | C(C)(C)(C)C=1C=C2C=C(N(C2=CC1)C1=CC(=C(C=C1)O)C(=O)O)C1=CC=CC=C1 | C25H23NO3
